US08022126B2
87.7 g (0.2 moles) of 9,9-bis(4-(2-hydroxyethoxy)phenyl)fluorene (product of JFE Chemical Corporation, product name: BPFE), 8.15 g (0.11 moles) of propionic acid, 7.93 g (0.11 moles) of acrylic acid, and 0.1 g of methoquinone was dissolved in 250 mL of toluene. The mixture was charged into a 1 L glass reaction vessel equipped with a cooling tube, an agitator, and a thermometer. While nitrogen gas was fed into the reaction vessel, the mixture was externally heated to 100° C. using an oil bath. 0.8 mL of concentrated sulfuric acid was added to the mixture to initiate the esterification reaction. Water produced by the reaction was continuously discharged to outside the system through its azeotrope with toluene. After 5 hours, the substantial completion of the reaction was confirmed through FT-IR. Next, the temperature was increased to 115° C., and the reaction was continued for another one hour. At this point, no further discharge of water produced by the reaction was observed, and only toluene was distilled off. Therefore, the reaction was terminated. The reaction product was neutralized with anhydrous sodium carbonate and washed with saturated saline several times. Subsequently, the reaction product was dehydrated and filtrated through a column filled with anhydrous sodium sulfate. The obtained toluene solution was precipitated out in n-hexane, and the precipitate was filtrated and dried, whereby the target mixture of 9,9-bis(4-(2-acryloxyethoxy)phenyl)fluorene, 9-(4-(2-propionoylethoxy)phenyl)-9-(4-(2-acryloxyethoxy)phenyl)fluorene, and 9,9-bis(4-(2-propionoylethoxy)phenyl)fluorene was obtained. The mixture was a white powder. It was found through FT-IR and liquid chromatography that the ratio of the bifunctional compound:the monofunctional compound:the nonfunctional compound in the mixture was 1:2:1.

reactant | 9,9-bis(4-(2-hydroxyethoxy)phenyl)fluorene | 0.2 moles, 87.7 g | OCCOC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)OCCO | C29H26O4
reactant | propionic acid | 0.11 moles, 8.15 g | C(CC)(=O)O | C3H6O2
reactant | acrylic acid | 0.11 moles, 7.93 g | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 9,9-bis(4-(2-propionoylethoxy)phenyl)fluorene | C(CC)(=O)CCOC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)OCCC(CC)=O | C35H34O4
